US06759554B2
N-(2-Methoxyphenyl)benzamide
An oven-dried resealable Schlenk tube was charged with CuI (6.0 mg, 0.0315 mmol, 1.0 mol %), benzamide (460 mg, 3.80 mmol), K2CO3 (850 mg, 6.15 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (40 μL, 0.333 mmol, 11 mol %), 2-bromoanisole (0.38 mL, 3.05 mmol) and dioxane (0.50 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 5:1; 20 mL fractions). Fractions 10-15 provided 573 mg (83% yield) of the product as a colorless oil. The 1H NMR spectrum was in accord with that reported by Narasaka et al. Tsutsi, H.; Ichikawa, T.; Narasaka, K. Bull. Chem. Soc. Jpn. 1999, 72, 1869.

reactant | benzamide | 3.80 mmol, 460 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | K2CO3 | 6.15 mmol, 850 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.333 mmol, 40 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 2-bromoanisole | 3.05 mmol, 0.38 mL | BrC1=C(C=CC=C1)OC | C7H7BrO
catalyst | CuI | 0.0315 mmol, 6.0 mg | [Cu]I
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | N-(2-Methoxyphenyl)benzamide | 573 mg, 83% yield | COC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C14H13NO2
